US05955480
1-(t-butyloxycarbonyl)-5-(4-fluorophenyl)-2-(4-phenoxyphenyl)-4-(4-pyridyl)imidazole
To a solution of 2-(4-phenoxyphenyl)-4-(4-fluorophenyl)-5-(4-pyridyl)imidazole (prepared by the method described in Example 2; 150 mg, 0.37 mmol) in DMF (1 mL) was added solid sodium hydride (8.9 mg of a 60% oil dispersion, 0.37 mmol). The reaction was stirred for 1 h at room temperature and then cooled to -20° C. Di-t-butyl carbonate (85 μL, 0.37 mmol) was added and the reaction was placed in a refrigerator for 4 days. The reaction was quenched by the addition of water and the mixture was extracted with ethyl acetate (3 times). The combined extracts were successively washed with water (2 times) and saturated salt solution and dried over anhydrous sodium sulfate. The solution was filtered and the solvent removed by rotoevaporation. The residue was purified by flash column chromatography on silica gel eluted with 0-1.5% methanol in methylene chloride to yield the title compound, mass spectrum (CI) m/e=508 (M+1)+.

reactant | 2-(4-phenoxyphenyl)-4-(4-fluorophenyl)-5-(4-pyridyl)imidazole | O(C1=CC=CC=C1)C1=CC=C(C=C1)C=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C26H18FN3O
reactant | sodium hydride | [H-].[Na+]
reactant | Di-t-butyl carbonate | 0.37 mmol, 85 μL | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(t-butyloxycarbonyl)-5-(4-fluorophenyl)-2-(4-phenoxyphenyl)-4-(4-pyridyl)imidazole | C(C)(C)(C)OC(=O)N1C(=NC(=C1C1=CC=C(C=C1)F)C1=CC=NC=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C31H26FN3O3
